US06268391B1
3-H-Pyrrolo[3,2-f]quinoline-1,2-dione (3.89 g, 19.6 mmol) was combined with 12.0 mL of anhydrous hydrazine and 10.25 mL of water and heated at 100° C. under a condenser and nitrogen atmosphere, with stirring, for 1 hr. The reaction occasionally foamed into the condenser and heat was removed as needed to allow foaming to subside. The reaction was cooled and poured into 200 mL of water. The product was collected by filtration and dried under vacuum at 55° C. to give 2.86 g (69%) of 1-hydrazono-1,3-dihydropyrrolo[3,2-f]quinoline-2-one as a brown solid. Mass spectrum (positive ion electrospray): m/z=213. NMR (DMSO-d6): δ7.37 (d, J=8.8 Hz, 1H), 7.47 (dd, J=8.4, 4.2 Hz, 1H), 7.81 (d, J=8.8 Hz, 1H), 8.71 (dd, J=4.2, 1.6 Hz, 1H), 8.80 (d, J=8.4 Hz, 1H), 9.90 (br d, J=14.7 Hz, 1H), 10.89 (br d, J=14.7 Hz, 1H), 10.95 (br s, 1H).

reactant | 3-H-Pyrrolo[3,2-f]quinoline-1,2-dione | 19.6 mmol, 3.89 g | C1(C(NC=2C1=C1C=CC=NC1=CC2)=O)=O | C11H6N2O2
reactant | hydrazine | 12.0 mL | NN | H4N2
solvent | water | 10.25 mL | O | H2O
product | 1-hydrazono-1,3-dihydropyrrolo[3,2-f]quinoline-2-one | 2.86 g, 69% | N(N)=C1C(NC=2C1=C1C=CC=NC1=CC2)=O | C11H8N4O
